US04176187
Ammonia gas was passed into an ice-cooled solution of 3.27 g (10 millimoles) of 1-(2-methoxyphenyl)-4-methoxypyridinium methosulfate in 15 ml of methanol units 2 g of ammonia had been adsorbed. After standing at 25° for 72 hours, the reaction mixture was concentrated, the residue was triturated with cold ethanol and the product was filtered off: 3.01 g (96% yield) of 1-(2-methoxyphenyl)-4(1H)-pyridineimine methosulfate (M.P.=121°-124°) were obtained.

reactant | Ammonia | N | H3N
reactant | 1-(2-methoxyphenyl)-4-methoxypyridinium | 10 millimoles, 3.27 g | COC1=C(C=CC=C1)[N+]1=CC=C(C=C1)OC
reactant | ammonia | 2 g | N | H3N
solvent | methanol | 15 ml | CO | CH4O
product | 1-(2-methoxyphenyl)-4(1H)-pyridineimine | 3.01 g, 96% yield | COC1=C(C=CC=C1)N1C=CC(C=C1)=N | C12H12N2O
